US07579465B2
(a) Preparation of 2-mercapto-6-hydroxybenzoxazole (see also J. Org. Chem., 19, 758)
A mixture of aminoresorcinol hydrochloride (1.1 g), potassium ethyl xanthate (1.2 g) and potassium carbonate (1.0 g) was dissolved in ethanol/water (1:1, 20 ml) and (under an argon balloon) heated under reflux for 3 hours. The pale yellow solution was cooled to RT and then acetic acid (2 ml) was added to make the solution slightly acidic (gas evolution). A cream precipitate soon formed and the sealed flask was kept in the fridge overnight. The cream solid was collected by filtration and the damp product (0.9 g) was used immediately in the next step.

reactant | aminoresorcinol hydrochloride | 1.1 g | Cl.NC1=C(O)C=CC=C1O
reactant | potassium ethyl xanthate | 1.2 g | O(C(=S)[S-])CC.[K+]
reactant | potassium carbonate | 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethanol water | 20 ml | C(C)O.O
product | 2-mercapto-6-hydroxybenzoxazole | SC=1OC2=C(N1)C=CC(=C2)O | C7H5NO2S
